US07897597B2
Concentrated ammonium hydroxide (3 to 4 mL) was added to a solution of N-[2-(7-benzyloxy-2-ethoxymethyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide (1.75 g, 3.51 mmol) in dichloromethane (35 mL) with rapid stirring. p-Toluenesulfonyl chloride (670 mg, 3.51 mmol) was added. The reaction was stirred for one hour; a precipitate formed. Water (100 mL) was added, and the dichloromethane was removed under reduced pressure. Dichloromethane (5 mL) was then added with rapid stirring, and the resulting powder was isolated by filtration and dissolved in 90:10 chloroform:methanol (200 mL). The resulting solution was concentrated under reduced pressure, and the residue was triturated with hot propyl acetate (50 mL), isolated by filtration, and dried under reduced pressure to provide 1.45 g of N-[2-(4-amino-7-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide as a tan powder.

reactant | ammonium hydroxide | 3 to 4 mL | [OH-].[NH4+]
reactant | N-[2-(7-benzyloxy-2-ethoxymethyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide | 3.51 mmol, 1.75 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=[N+](C2C1)[O-])N=C(N3CC(C)(C)NS(=O)(=O)C)COCC | C25H30N4O5S
reactant | p-Toluenesulfonyl chloride | 3.51 mmol, 670 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Water | 100 mL | O | H2O
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 200 mL | CO | CH4O
product | N-[2-(4-amino-7-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide | 1.45 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)NS(=O)(=O)C)COCC)OCC2=CC=CC=C2 | C25H31N5O4S
